US07947851B2
Step a) Formation of methyl {4-[({4-[(4-butylphenyl)ethynyl]benzyl}{[(E)-2-phenylvinyl]-sulfonyl}amino)methyl]phenoxy}acetate acid
A solution of methyl {4-[({4-[(4-butylphenyl)ethynyl]benzyl}amino)methyl]phenoxy}-acetate (42 mg, 0.10 mmol) and β-styrene sulfonyl chloride (Aldrich, 23 mg, 0.11 mmol) in DCM (2 mL) was stirred at rt overnight in presence of a morpholine resin (1.5 eq., Novabiochem HL, 3.8 mmol/g) (1.5 eq). Trisamine resin (1 eq, Novabiochem, 3.5 mmol/g) was then added and the mixture stirred at rt for an additional 2 hrs. The reaction mixture was then filtrated and the solvent was removed under reduced pressure to give 55 mg (95%) of the title compound. HPLC, Rt: 5.8 min (purity: 83%). M+(ESI): 608.2.

reactant | methyl {4-[({4-[(4-butylphenyl)ethynyl]benzyl}amino)methyl]phenoxy}-acetate | 0.10 mmol, 42 mg | C(CCC)C1=CC=C(C=C1)C#CC1=CC=C(CNCC2=CC=C(OCC(=O)OC)C=C2)C=C1 | C29H31NO3
reactant | β-styrene sulfonyl chloride | 0.11 mmol, 23 mg | C(=CC1=CC=CC=C1)S(=O)(=O)Cl | C8H7ClO2S
reactant | morpholine | 1.5 eq. | N1CCOCC1 | C4H9NO
reactant | Trisamine | 1 eq | C(C(CO)(CO)N)O | C4H11NO3
solvent | DCM | 2 mL | C(Cl)Cl | CH2Cl2
product | methyl {4-[({4-[(4-butylphenyl)ethynyl]benzyl}{[(E)-2-phenylvinyl]-sulfonyl}amino)methyl]phenoxy}acetate | 55 mg, 95% | C(CCC)C1=CC=C(C=C1)C#CC1=CC=C(CN(S(=O)(=O)\C=C\C2=CC=CC=C2)CC2=CC=C(OCC(=O)OC)C=C2)C=C1 | C37H37NO5S
